US06610730B2
Crude 2-[1 -(trimethyl-silanyloxy)-vinyl]-1H-pyrrole was diluted with CH2Cl2 (10 ml), cooled to 0° C., and treated with N-bromosuccinimide (1.94 mmol, 0.35 g). The resulting mixture was put in a −20° C. freezer overnight. After warming to room temperature, the mixture was diluted with ethyl acetate (75 ml), washed with saturated aqueous sodium bicarbonate (2×20 ml), brine (2×20 ml), and the organics concentrated under reduced pressure. Purification of the residue by silica gel chromatography provided 0.29 g (80%) of 2-bromo-1-(1H-pyrrol-2-yl)-ethanone. 1H NMR (CDCl3) δ7.12 (1H, dt, J=2.7, 1.3), 7.02 (1H, ddd, J=3.8, 2.4, 1.3), 6.36-6.31 (1H, m), 4.27 (2H, s).

reactant | 2-[1 -(trimethyl-silanyloxy)-vinyl]-1H-pyrrole | C[Si](OC(=C)C=1NC=CC1)(C)C | C9H15NOSi
reactant | N-bromosuccinimide | 1.94 mmol, 0.35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 2-bromo-1-(1H-pyrrol-2-yl)-ethanone | 0.29 g, 80% | BrCC(=O)C=1NC=CC1 | C6H6BrNO
